US07749992B2
Isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7,8-dimethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Combine isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-methyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (0.058 g, 0.095 mmol), methylboronic acid (0.011 g, 0.190 mmol), palladium acetate (0.0009 g, 0.004 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (0.0036 g, 0.0087 mmol) and potassium phosphate monohydrate (0.044 g, 0.190 mmol) in toluene (2 mL) and heat in a sealed tube at 100° C. for 24 h. Dilute the cooled mixture with ethyl acetate (30 mL) and filter through Celite. Remove the filtrate solvent under reduced pressure and purify the residue using chromatography on silica gel, eluting with hexanes/ethyl acetate (60:40), to provide the title compound as a white solid (0.020 g, 38%): ESI MS 545 (M+H).

reactant | isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-methyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.095 mmol, 0.058 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=C(C(=C2)C)Br | C26H27BrF6N2O3
reactant | methylboronic acid | 0.190 mmol, 0.011 g | CB(O)O | CH5BO2
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.0087 mmol, 0.0036 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate monohydrate | 0.190 mmol, 0.044 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.004 mmol, 0.0009 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7,8-dimethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.020 g, 38% | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=C(C(=C2)C)C | C27H30F6N2O3
